US07521455B2
(2) Manufacture of 3-aminopyridine-2-carboxylic acid
3-nitropyridine-2-carboxylic acid (2.72 g, 16.2 mmol) and sodium hydrogencarbonate (1.34 g, 16.2 mmol) were dissolved in distilled water (20 mL), and the atmosphere in the system was replaced by nitrogen. After adding 10% palladium charcoal (1.72 g), the atmosphere in the system was replaced by hydrogen, and the mixture stirred at room temperature for 50 hours. 1N hydrochloric acid aqueous solution was added, and the pH of the reaction solution was adjusted to weak acidity. The solvent was distilled off under reduced pressure, a small amount of ethanol and ethyl acetate were added to the residue, and the precipitate produced was filtered off. The filtrate was concentrated, and the target substance (1.50 g, 67%) was thus obtained as a light yellow solid.

reactant | 3-nitropyridine-2-carboxylic acid | 16.2 mmol, 2.72 g | [N+](=O)([O-])C=1C(=NC=CC1)C(=O)O | C6H4N2O4
reactant | sodium hydrogencarbonate | 16.2 mmol, 1.34 g | C(O)([O-])=O.[Na+]
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 20 mL | O | H2O
catalyst | palladium charcoal | 1.72 g | [Pd] | Pd
product | 3-aminopyridine-2-carboxylic acid | NC=1C(=NC=CC1)C(=O)O | C6H6N2O2
